US09035084B2
B2pin2 (1.0 mmol, 254 mg), benzoyl peroxide (0.02 mmol, 5 mg), 3-F3CC6H4NH2 (1 mmol, 161 mg) and acetonitrile (3 mL) were added to a 25 mL tube-type reactor, followed by the addition of tert-butyl nitrite (1.5 mmol, 154 mg). The reaction was conducted at room temperature for 4 h. The solution'was concentrated after the reaction and the resultant was purified by column chromatography (eluted by petroleum ether:ethyl acetate=30:1, V:V) to give 4,4,5,5-tetramethyl-2-(3-(trifluoromethyl)phenyl)-1,3,2-dioxaborolane having the following structure:

reactant | B2pin2 | 1.0 mmol, 254 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | benzoyl peroxide | 0.02 mmol, 5 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 3-F3CC6H4NH2 | 1 mmol, 161 mg | C(F)(F)(F)C=1C=C(C=CC1)N | C7H6F3N
reactant | tert-butyl nitrite | 1.5 mmol, 154 mg | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 4,4,5,5-tetramethyl-2-(3-(trifluoromethyl)phenyl)-1,3,2-dioxaborolane | 70% yield | CC1(OB(OC1(C)C)C1=CC(=CC=C1)C(F)(F)F)C | C13H16BF3O2
